US06951870B2
3-Benzoyl-6,7-dihydroxy-5-nitro-chromen-2-one
Nitric acid solution (1.6 ml, 2 M in CH2Cl2) was added to a solution of 3-benzoyl-6,7-dihydroxy-chromen-2-one (0.89 g) in ethyl acetate (50 ml) at −16-10° C. The solvent was evaporated and the product run through a silica column with toluene-ethyl acetate acetic acid (8:1:1) as the solvent. The product was crystallized from ether. Yield: 40 mg, melting point 94-96° C.

reactant | Nitric acid | 2 M, 1.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-benzoyl-6,7-dihydroxy-chromen-2-one | 0.89 g | C(C1=CC=CC=C1)(=O)C=1C(OC2=CC(=C(C=C2C1)O)O)=O | C16H10O5
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-Benzoyl-6,7-dihydroxy-5-nitro-chromen-2-one | C(C1=CC=CC=C1)(=O)C=1C(OC2=CC(=C(C(=C2C1)[N+](=O)[O-])O)O)=O | C16H9NO7
